US07416682B2
4′-[5-(1,1,3,3-Tetramethyl-disiloxanyl)-pentyloxy]-biphenyl-4-carbonitrile
8.12 g (0.032 mol) of 4′-But-3-enyloxy-biphenyl-4-carbonitrile is dissolved in 80 mL of dry toluene and 21.50 g (0.16 mol) of 1,1,3,3-Tetramethyl-disiloxane is added. Dry air bubbled through the solution for 2 min and few drops of platinium(0)-1,3-divinyl-1,1,3,3-tetramethyldisiloxane complex in xylene are added. After stirring at room temperature for 20 h with exclusion of moisture, the solvent and excess of 1,1,3,3-Tetramethyl-disiloxane are distilled off under reduced pressure. The residue purified by column chromatography on silica gel using a mixture of CH2Cl2/pentane (75/25) as eluent gives a colourless oil (10.67 g, 84% yield).

reactant | 4′-But-3-enyloxy-biphenyl-4-carbonitrile | 0.032 mol, 8.12 g | C(CC=C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C17H15NO
reactant | 1,1,3,3-Tetramethyl-disiloxane | 0.16 mol, 21.50 g | C[SiH](O[SiH](C)C)C | C4H14OSi2
reactant | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 4′-[5-(1,1,3,3-Tetramethyl-disiloxanyl)-pentyloxy]-biphenyl-4-carbonitrile | 10.67 g, 84% yield | C[Si](O[SiH](C)C)(C)CCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C22H31NO2Si2
